US08530490B2
Synthesis of (3-(cyclopropylmethoxy)phenyl)(phenyl)methanamine
3-Hydroxybenzaldehyde (2.5 g) was dissolved in DMF (25 mL). To the solution, potassium carbonate (6.2 g), potassium iodide (350 mg), and (chloromethyl)cyclopropane (2.1 mL) were added, and the mixture was stirred at 90° C. for 4 hours. To the reaction mixture, water (30 mL) was added, and the resultant mixture was then extracted with toluene (30 mL). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was dissolved in THF (3.0 mL). To the mixture, a solution of phenylmagnesium bromide in THF (1.0 M, 22.6 mL) was added dropwise at 0° C., and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution (10 mL) was added at 0° C., and the resultant mixture was then extracted with ethyl acetate (50 mL). The organic layer was washed with brine (30 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane). The obtained compound was dissolved in chloroform (30 mL). To the solution, sodium azide (3.5 g) was added. To the reaction mixture, trifluoroacetic acid (6.6 mL) was added dropwise at 0° C., and the mixture was then stirred at room temperature for 1 hour. To the reaction mixture, water (20 mL) was added, and the resultant mixture was then extracted with chloroform (20 mL). The organic layer was washed with an aqueous saturated sodium bicarbonate solution (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane). The obtained compound was dissolved in methanol (30 mL). To the solution, 10% palladium-carbon (600 mg) was added, and the reaction mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The precipitate was removed by filtration through a pad of Celite and washed with methanol (100 mL). Then, the combined filtrate was concentrated under reduced pressure to obtain the title compound (2.79 g) as a crude product.

reactant | 3-Hydroxybenzaldehyde | 2.5 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 350 mg | [I-].[K+]
reactant | (chloromethyl)cyclopropane | 2.1 mL | ClCC1CC1 | C4H7Cl
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (3-(cyclopropylmethoxy)phenyl)(phenyl)methanamine | 2.79 g | C1(CC1)COC=1C=C(C=CC1)C(N)C1=CC=CC=C1 | C17H19NO
